US08604034B2
Ethyl 1-[2-(4-chlorophenyl)-2-oxoethyl]-3-(pyridin-2-yl)-1H-pyrazole-5-carboxylate (630 mg, 1.77 mmol) and ethane-1,2-diamine (1.77 mL, 26.6 mmol) was combined and stirred at reflux in 1,4-dioxane. After 48 hours (monitored by LCMS) the reaction mixture was concentrated in vacuo and the residue partitioned between CH2Cl2 (20 mL) and brine (10 mL). The organic layer was separated and the aqueous layer extracted with further CH2Cl2 (2×10 mL). The combined organic layers were dried (MgSO4), filtered and evaporated in vacuo to give a yellow residue that was purified by flash column chromatography (Biotage SP4, 40 g cartridge, gradient 2 to 15% methanol in CH2Cl2). To give 10a-(4-chlorophenyl)-7-(pyridin-2-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrazolo[1,5-d]pyrazin-5-one as an off white solid (150 mg, yield: 23%). ESI-MI m/z [M+H]+ 366.1.

reactant | Ethyl 1-[2-(4-chlorophenyl)-2-oxoethyl]-3-(pyridin-2-yl)-1H-pyrazole-5-carboxylate | 1.77 mmol, 630 mg | ClC1=CC=C(C=C1)C(CN1N=C(C=C1C(=O)OCC)C1=NC=CC=C1)=O | C19H16ClN3O3
reactant | ethane-1,2-diamine | 26.6 mmol, 1.77 mL | C(CN)N | C2H8N2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 10a-(4-chlorophenyl)-7-(pyridin-2-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrazolo[1,5-d]pyrazin-5-one | ClC1=CC=C(C=C1)C12N(C(C=3N(C1)N=C(C3)C3=NC=CC=C3)=O)CCN2 | C19H16ClN5O
